US07326791B2
3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-(thiazolidin-3-ylcarbonyl)benzamide
Prepared analogously to Example 1d from 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide, thiazolidine, TBTU, and triethylamine in DMSO at ambient temperature. HPLC-MS results: retention time: 3.51 minutes; C19H16Cl2N4O2S (435.33); mass spectrum: (M+H)+=435.1.

reactant | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)O | C16H11Cl2N3O3
reactant | thiazolidine | S1CNCC1 | C3H7NS
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-(thiazolidin-3-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CSCC1 | C19H16Cl2N4O2S
